data/oMe_Silver.jsonl
{"reaction_id": "NR-229_1-c1ccccc1_2-C(F)(F)F_3-C(=O)OC_4-c1ccoc1_5-C","level": "medium","name": "Prins Reaction","reactants_smiles": ["O=C(c1ccccc1)(C(F)(F)F)","C(C(=O)OC)=C(c1ccoc1)(C)","O"],"products_smiles": ["C([OH])(c1ccoc1)(C)C(C(=O)OC)(C(O)(c1ccccc1)(C(F)(F)F))"],"conditions": "acidic conditions","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(c1ccccc1)(C(F)(F)F)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via resonance and inductive effects, making it more susceptible to nucleophilic attack by the alkene."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "[C+](c1ccoc1)(C)C(C(=O)OC)(C(O)(c1ccccc1)(C(F)(F)F))","step_weight": 0,"rationale": "The electron-rich alkene attacks the activated carbonyl carbon, forming a carbocation stabilized by adjacent substituents and the oxygen atom through inductive and hyperconjugative effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([OH2+])(c1ccoc1)(C)C(C(=O)OC)(C(O)(c1ccccc1)(C(F)(F)F))","step_weight": 0,"rationale": "Water, abundant under acidic conditions, acts as a nucleophile and attacks the carbocation center, favored by the high electrophilicity and lack of steric hindrance at that position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH])(c1ccoc1)(C)C(C(=O)OC)(C(O)(c1ccccc1)(C(F)(F)F))","step_weight": 0,"rationale": "Deprotonation of the oxonium intermediate restores neutrality, driven by the stability of the neutral alcohol and the presence of a suitable base in the medium."}],"description": "Under acidic conditions, the carbonyl is protonated to enhance electrophilicity, enabling the alkene to attack and form a carbocation. Water then adds to the carbocation, and final deprotonation yields the Prins reaction product with hydroxyl substitution."}
{"reaction_id": "NR-305_1-c2sccc2_2-c2ccc3ccccc3c2","level": "easy","name": "Tebbe-Petasis Olefination","reactants_smiles": ["O=C(c2sccc2)(c2ccc3ccccc3c2)","C[Ti](C)(C1C=CC=C1)(C1C=CC=C1)"],"products_smiles": ["C=C(c2sccc2)(c2ccc3ccccc3c2)","C","O=[Ti](C1C=CC=C1)(C1C=CC=C1)"],"conditions": "In situ generation of Tebbe/Petasis reagent","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C=[Ti](C1C=CC=C1)(C1C=CC=C1)","step_weight": 0,"rationale": "Thermal conditions promote elimination of a methyl group from titanium, forming a reactive Ti–carbene stabilized by π-donating cyclopentadienyl ligands."},{"step": 2,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(c2sccc2)(c2ccc3ccccc3c2)O[Ti]([CH2]1)(C1C=CC=C1)(C1C=CC=C1)","step_weight": 0,"rationale": "The electrophilic Ti–carbene reacts with the nucleophilic carbonyl oxygen in a [2+2] cycloaddition, favored by orbital symmetry and the strong Ti–O bond formation."},{"step": 3,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C=C(c2sccc2)(c2ccc3ccccc3c2)","step_weight": 0,"rationale": "Cycloreversion occurs to relieve ring strain, driven by formation of a stable Ti=O bond and the thermodynamically favored alkene product."}],"description": "The Tebbe-Petasis olefination converts a carbonyl group into an alkene via a titanium–carbene complex. The reagent is generated in situ, undergoes [2+2] cycloaddition with the carbonyl, and then eliminates to yield the alkene and a titanium oxo species."}
